US08877759B2
To a suspension of methyl 3-amino-6-bromo-pyrazine-2-carboxylate (2.5 g, 10.8 mmol) in ethanol (50 mL) was added hydrazine hydrate (3.2 g, 3 mL, 64.6 mmol) and the reaction mixture heated at 70° C. for 1.5 hours forming a thick yellow solid. The reaction mixture was filtered and the solid washed with water (20 mL) and ethanol (40 mL). The solid was dried in vacuo to yield 3-amino-6-bromo-pyrazine-2-carbohydrazide (2.7 g, 94% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 4.53 (d, J=3.5 Hz, 2H), 7.62 (s, 2H), 8.31 (s, 1H) and 9.78 (s, 1H) ppm; LC/MS m/z 233.1 [M+H]+

reactant | methyl 3-amino-6-bromo-pyrazine-2-carboxylate | 10.8 mmol, 2.5 g | NC=1C(=NC(=CN1)Br)C(=O)OC | C6H6BrN3O2
reactant | hydrazine hydrate | 64.6 mmol, 3 mL, 3.2 g | O.NN
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-amino-6-bromo-pyrazine-2-carbohydrazide | 2.7 g, 94% yield | NC=1C(=NC(=CN1)Br)C(=O)NN | C5H6BrN5O
